US06248739B1
N-(4-Chlorobenzyl)-1-methyl-6-(1,4-oxazepan-4-ylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
Methanesulfonyl chloride (0.080 mL) is added to a cold (0° C.) solution of N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide (330 mg) from Preparation No. 10, DMAP (19.1 mg), and 2,4,6-collidine (0.14 mL) in anhydrous DMF (15.7 mL). The mixture is stirred at room temperature until the starting material is consumed and a solution of 1,4-oxepane (0.963 g) from Preparation No. 33 in anhydrous DMF (3 mL) is added. The reaction mixture is heated to 56° C. for 1.5 h. The mixture is cooled to room temperature and the product is precipitated by addition of water (125 mL). The solid was adsorbed onto silica and purified by column chromatography (eluent 100% CH2Cl2 (1 L), 1% MeOH in CH2Cl2 (2 L), 1.5% MeOH in CH2Cl2 (1 L), 2% MeOH in CH2Cl2 (3 L)). Fractions homogenous by TLC are combined and concentrated to afford 124.5 mg (31%) of the title compound as a white solid.

reactant | Methanesulfonyl chloride | 0.080 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 330 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CO)C)C=C1 | C19H17ClN2O3
reactant | 2,4,6-collidine | 0.14 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | DMF | 15.7 mL | CN(C)C=O | C3H7NO
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 19.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-Chlorobenzyl)-1-methyl-6-(1,4-oxazepan-4-ylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 124.5 mg, 31% | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCCC2)C)C=C1 | C24H26ClN3O3
